US07727988B2
6-[2,4-dioxo-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]-2-pyridinecarbonitrile dihydrochloride (E47)
6-[2,4-dioxo-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]-2-pyridinecarbonitrile was dissolved in dioxane and treated with 4N HCl in dioxane (2 eq), to give 68 mg of the title compound as a white powder (29% yield)

reactant | 6-[2,4-dioxo-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]-2-pyridinecarbonitrile | O=C1N(C=C(C(N1)=O)C1=CC=CC(=N1)C#N)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | C25H22F3N5O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 6-[2,4-dioxo-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]-2-pyridinecarbonitrile dihydrochloride | 68 mg, 29% yield | Cl.Cl.O=C1N(C=C(C(N1)=O)C1=CC=CC(=N1)C#N)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C25H22F3N5O2.2ClH/c26-25(27,28)17-7-5-16(6-8-17)24-11-18(24)13-32(15-24)9-2-10-33-14-20(22(34)31-23(33)35)21-4-1-3-19(12-29)30-21;;/h1,3-8,14,18H,2,9-11,13,15H2,(H,31,34,35);2*1H/t18-,24+;;/m0../s1
